2136-07-06 11:03:00 Physician Attending Progress Note
Chief Complaint: Acute Renal Failure
   Congestive heart failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2136-7-5**] 09:00 AM
   -Substantial worsening of EF to 15% and severe AS with evolution of AI
   and severe pulmonary hypertension with small pericardial effusion
 ULTRASOUND - At [**2136-7-5**] 01:30 PM
   L neck
    negative  for AV fistula
   Overnight complicated by low urine output and persistent renal
   dysfunction.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Pronestyl (Oral) (Procainamide Hcl)
   Unknown;
   Quinidine
   Unknown;
   Clonidine
   Unknown;
   A.C.E Inhibitors
   Unknown; Cough;
   Spironolactone
   mental status c
   Flagyl (Oral) (Metronidazole)
   Nausea/Vomiting
   Levaquin (Oral) (Levofloxacin)
   increased bleed
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2136-7-5**] 12:40 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2136-7-5**] 12:29 PM
   Insulin - Regular - [**2136-7-5**] 12:29 PM
   Furosemide (Lasix) - [**2136-7-6**] 01:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Increaed Thirst
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Flowsheet Data as of  [**2136-7-6**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96.1
   HR: 70 (70 - 72) bpm
   BP: 115/40(59) {99/29(36) - 132/76(91)} mmHg
   RR: 20 (8 - 29) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                  2,924 mL
                                                                  1,245 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                  1,598 mL
                                                                  1,245 mL
   Blood products:
                                                                    841 mL
   Total out:
                                                                    465 mL
                                                                    465 mL
   Urine:
                                                                    215 mL
                                                                    465 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                  2,459 mL
                                                                    780 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Still with bandage in left neck
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic), [**1-25**]
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Crackles : )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   163 K/uL
   71 mg/dL
   2.7 mg/dL
   24 mEq/L
   5.0 mEq/L
   53 mg/dL
   108 mEq/L
   147 mEq/L
   28.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2136-7-5**]  12:24 AM
                             [**2136-7-5**]  04:40 AM
                             [**2136-7-5**]  05:56 PM
   WBC
   14.0
   12.0
   Hct
   26.7
   28.4
   Plt
   187
   163
   Cr
   2.8
   2.7
   TropT
   0.04
   0.04
   Glucose
   106
   118
   71
   Other labs: PT / PTT / INR:20.2/30.3/1.9, CK / CKMB /
   Troponin-T:69/4/0.04, ALT / AST:66/75, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:33/19, Differential-Neuts:87.4 %, Band:0.0 %,
   Lymph:7.4 %, Mono:4.9 %, Eos:0.2 %, Lactic Acid:2.9 mmol/L, Albumin:3.3
   g/dL, LDH:395 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR-[**2136-7-6**]
   -Patient has increased opacities suggested in right chest but is very
   technically limited film,
   Assessment and Plan
   86 yo female with history of CAD and now admit with worsening renal
   function in the setting of diuresis for worsening volume overload.  The
   issues at play are a substantial worsening of her myocardial function
   and valvular function with patient now having limited response to both
   volume and diuretics given in series.  Early this morning patient has
   shown some response to IVF bolus this morning and may need continued
   gentle hydration.  She has some evidence of likely hydrostatic edema on
   her CXR which is concerning in the setting of limited urine output and
   impaired renal function.

 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -Lipitor
   -Do not see evidence of ongoing ischemia
   -Continue with telemetry
   CONGESTIVE HEART FAILURE
   Digoxin
   Carvedilol
   Would favor afterload reduction in the setting of AI and impaired LVEF
   Lasix as tolerated
 ATRIAL FIBRILLATION (AFIB)
   on coumadin
   ACUTE RENAL FAILURE-
   Some improvement in urine flow
   Creat stable
 ANEMIA, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   chronic, on daily anco PO long-term
   Vanco PO
 NAUSEA / VOMITING
 DIARRHEA--persistent
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   prerenal in setting of V/diarrhea
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   NECK HEMATOMA-
   Stable with dressing in place
   Ultrasound without evidence of expanding hematoma or AV fistula
   Follow Exam
 HYPOTHYROIDISM
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2136-7-5**] 09:00 AM
   22 Gauge - [**2136-7-6**] 12:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Plan D/W daughter
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2136-07-07 07:15:00 Physician Resident Progress Note
Chief Complaint: CHF exacerbation, ARF
   24 Hour Events:
 PICC LINE - START [**2136-7-6**] 03:06 PM
   1 U PRBC Hct 23.7--> 28.9 (also had 1 U on [**7-5**])
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPronestyl (Oral)
   (Procainamide Hcl)
   Unknown;
   Quinidine
   Unknown;
   Clonidine
   Unknown;
   A.C.E Inhibitors
   Unknown; Cough;
   Spironolactone
   mental status c
   Flagyl (Oral) (Metronidazole)
   Nausea/Vomiting
   Levaquin (Oral) (Levofloxacin)
   increased bleed
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2136-7-5**] 12:40 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Sitter notes occasional dry cough; pt denies CP,
   SOB, abd pain, N/V
   Flowsheet Data as of  [**2136-7-7**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 70 (70 - 73) bpm
   BP: 138/40(63) {90/26(43) - 138/51(71)} mmHg
   RR: 26 (11 - 28) insp/min
   SpO2: 91%
   Heart rhythm: V Paced
             Total In:
                                                                  2,157 mL
                                                                     67 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                  1,378 mL
                                                                     67 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                    780 mL
                                                                     80 mL
   Urine:
                                                                    720 mL
                                                                     80 mL
   NG:
   Stool:
                                                                     60 mL
   Drains:
   Balance:
                                                                  1,377 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91
   Physical Examination
   GEN: Awake, alert, conversant; oriented to person, place, year
   NECK: left-sided dressing c/d/i
   CV: RRR nl S1S2 +S3 IV/VI syst eject murmur at base
   PULM: bibasilar crackles R>L, no wheeze
   ABD: soft NTND +BS, no rebound, guarding
   EXT: warm, dry tr LE edema
   Labs / Radiology
   154 K/uL
   10.2 g/dL
   52 mg/dL
   2.2 mg/dL
   17 mEq/L
   4.4 mEq/L
   53 mg/dL
   110 mEq/L
   142 mEq/L
   28.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2136-7-5**]  12:24 AM
                             [**2136-7-5**]  04:40 AM
                             [**2136-7-5**]  05:56 PM
                             [**2136-7-6**]  02:45 PM
                             [**2136-7-7**]  04:46 AM
   WBC
   14.0
   12.0
   10.6
   12.2
   Hct
   26.7
   28.4
   23.7
   28.9
   Plt
   187
   163
   138
   154
   Cr
   2.8
   2.7
   2.4
   2.2
   TropT
   0.04
   0.04
   Glucose
   106
   118
   71
   63
   52
   Other labs: PT / PTT / INR:17.6/41.1/1.6, CK / CKMB /
   Troponin-T:69/4/0.04, ALT / AST:86/93, Alk Phos / T Bili:61/0.6,
   Amylase / Lipase:33/19, Differential-Neuts:87.4 %, Band:0.0 %,
   Lymph:7.4 %, Mono:4.9 %, Eos:0.2 %, Lactic Acid:2.9 mmol/L, Albumin:3.3
   g/dL, LDH:395 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Microbiology: [**7-4**] UCx ~1000 col/ml
   [**7-5**] c. diff neg
   Assessment and Plan
   86 y/o F h/o CAD, CHF, DM, AFib hypertherapeutic on coumadin, and
   chronic c. diff colitis on recently elevated dose of PO vanco a/w
   vomiting and diarrhea with evidence of colitis, and acute on chronic
   renal failure in the setting of escalating diuresis.
   .
   #Acute on chronic renal failure
 low urinary Na reflects ongoing
   Na-avidity c/w multifactorial pre-renal physiology (poor forward flow
   from decompensated CHF, uptitrated diuretics, vomiting, diarrhea, poor
   PO intake); Cr improving with IVF, but likely still intravascularly dry
   as UOP has been suboptimal; could be at or approaching new b/l Cr
   - gentle hydration (500 cc over 2 hrs) as UOP appears fluid-responsive,
   goal UOP > 30-40 cc/hr
   - holding K, [**Last Name (un) 239**], diuretics
   - urine cx growing clinically insignificant quantity of GNR
 will not
   treat
   - repeat lytes, BUN/Cr in afternoon
   .
   #Acute on chronic systolic heart failure
TTE revealed worsened valve
   and LV fxn c/w exam [**9-24**]; substantial pleural effusions but no
   respiratory compromise, comfortable with adeq. O2 sats on RA; CE
   negative/EKG unchanged/no new WMA on TTE so unlikely recent ischemic
   event precipitated this decompensation
   -favor giving IVF as above over gentle diuresis as entirely preload
   dependent [**1-21**] severe valvular disease
   -C/S CHF service re: fluid management and utility of ionotropic support
   to improve forward flow
   -titrate O2 to sats > 92%; if O2 requirement [**Last Name (LF) 1881**], [**First Name3 (LF) **] try lasix +
   metolozone, incr. carvedilol for afterload reduction
   -cont. digoxin (serum level [**7-6**] WNL)
   -if acute decompensation in oxygenation, consider therapeutic
   thoracentesis
   .
   #Anemia - Hct 23.7
28.9 s/p 2U PRBC; had bleeding from central line
   site after removing it, got FFP/vit K
   -T&C, x-fuse for <24%
   -guaiac stools
   .
   #Bilat pleural effusion/RLL opacity - likely transudative effusions in
   the setting of decompensated CHF, cannot exclude underlying PNA but low
   suspicion since no fever or leukocytosis; stable resp. status off O2
   -no indictation for ABX for now (esp. in light of h/o c. diff)
   -blood Cx pending
   .
   #N/V/D - suspect viral etiology as has not had vomiting with prior
   episodes of c. diff; may also be bowel wall edema in the setting of
   volume overload; no c/o pain, benign abdominal exam, and
   supratherapeutic INR on admission makes ischemia/thrombosis less
   likely; mild transaminitis c/w congestive hepatopathy
   -c. diff neg x 1, repeat x 2
   -cont. PO vanco QD; would not add flagyl; must clarify duration of
   therapy for c. diff
   -follow LFT's; consider RUQ U/S if cont. to rise significantly
   .
   #AFib - V-paced; subtherapeutic
   -restart coumadin tonight; may have to hold peri-procedurally should
   she require PEG placement
   .
   #DM
 sugars well-controlled
   -RISS
   .
   #CAD - no ischemic changes on EKG, CE
s neg, no new WMA on TTE,
   unlikely recent ischemic event
   -cont. ASA, B-blocker
   .
   #HTN -
   -cont. carvedilol for HTN, afterload reduction
   -holding diuretics, [**Last Name (un) 239**] in ARF
   .
   #Hypothyroidism
   -Cont. thyroxine
   -TSH, free T4 WNL
   .
   #F/E/N
 poor PO intake even with encouragement, will likely require TF
   or PEG
   -slow IVF bolus PRN until volume replete, UOP improves
   -monitor lytes [**Hospital1 **]
   -cardiac diet
   .
   #PPx - PPI, SQH, no need for bowel regimen
   .
   #Access
 2  PIV,  PICC
   .
   #Contact - Daughter [**First Name8 (NamePattern2) 1690**] [**Known lastname 3629**] [**Telephone/Fax (1) 3630**]; will readdress goals of
   care, code status, possible PEG for long-term nutrition
   .
   #CODE STATUS
 FULL
   .
   #Dispo
 ICU
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2136-7-5**] 09:00 AM
   22 Gauge - [**2136-7-6**] 12:31 AM
   PICC Line - [**2136-7-6**] 03:06 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2136-07-07 11:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2136-7-6**] 03:06 PM
   transfused 1 unit prbc (23 --> 28.9)
   History obtained from HO
   Allergies:
   Pronestyl (Oral) (Procainamide Hcl)
   Unknown;
   Quinidine
   Unknown;
   Clonidine
   Unknown;
   A.C.E Inhibitors
   Unknown; Cough;
   Spironolactone
   mental status c
   Flagyl (Oral) (Metronidazole)
   Nausea/Vomiting
   Levaquin (Oral) (Levofloxacin)
   increased bleed
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2136-7-5**] 12:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-7-7**] 08:47 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-7**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 70 (70 - 73) bpm
   BP: 133/34(59) {90/26(43) - 138/51(71)} mmHg
   RR: 22 (11 - 28) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
             Total In:
                                                                  2,159 mL
                                                                    592 mL
   PO:
                                                                    500 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,380 mL
                                                                    112 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                    780 mL
                                                                    112 mL
   Urine:
                                                                    720 mL
                                                                    112 mL
   NG:
   Stool:
                                                                     60 mL
   Drains:
   Balance:
                                                                  1,379 mL
                                                                    480 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94% RA
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to):  3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   154 K/uL
   52 mg/dL
   2.2 mg/dL (2.4)
   17 mEq/L
   4.4 mEq/L
   53 mg/dL
   110 mEq/L
   142 mEq/L
   28.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2136-7-5**]  12:24 AM
                             [**2136-7-5**]  04:40 AM
                             [**2136-7-5**]  05:56 PM
                             [**2136-7-6**]  02:45 PM
                             [**2136-7-7**]  04:46 AM
   WBC
   14.0
   12.0
   10.6
   12.2
   Hct
   26.7
   28.4
   23.7
   28.9
   Plt
   187
   163
   138
   154
   Cr
   2.8
   2.7
   2.4
   2.2
   TropT
   0.04
   0.04
   Glucose
   106
   118
   71
   63
   52
   Other labs: PT / PTT / INR:17.6/41.1/1.6, CK / CKMB /
   Troponin-T:69/4/0.04, ALT / AST:96/104, Alk Phos / T Bili:58/0.8,
   Amylase / Lipase:33/19, Differential-Neuts:87.4 %, Band:0.0 %,
   Lymph:7.4 %, Mono:4.9 %, Eos:0.2 %, Lactic Acid:2.9 mmol/L, Albumin:3.3
   g/dL, LDH:395 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Imaging: cxr--R> L effusion layering, slightly worse than yesterday but
   different penetration
   Microbiology: urine [**7-4**]--> e coli 1000 col
   c diff toxin [**7-5**] neg
   blood  neg
   Assessment and Plan
   86 yo F w/ chronic c diff on suppressive therapy, chronic effusions,
   CAD, valvular heart ds, and systolic CHF admitted w/ worsening renal
   function in the setting of over diuresis for worsening volume
   overload.
   The issues at play include a substantial worsening of her myocardial
   function and valvular function with patient now having limited response
   to both volume and diuretics given in series. Will likely need to
   continue gentle hydration as PO intake remains poor.  She has some
   evidence of likely hydrostatic edema on her CXR which is concerning in
   the setting of limited urine output and impaired renal function, and
   also is in part at least [**1-21**] to poor nutritional status and poor Pos.
   # CONGESTIVE HEART FAILURE
systolic, acute on chronic
    With underlying valvular ds and now with acute renal failure
   --Digoxin, follow level
   -  Carvedilol
   - [**Month (only) 60**] benefit from increased afterload reduction in the setting of AI
   and impaired LVEF
   - Lasix as tolerated, as at this time appears volume down, with poor
   PO
will give gentle hydration
   - Cards consult for additional suggestions
   # ATRIAL FIBRILLATION (AFIB)
   v-paced
   coumadin was reversed for bleeding
which is now stabilized,
   will resume coumadin in next few days, as pt may need additional
   interventions (?PEG)
   #  ACUTE RENAL FAILURE-appears [**1-21**] pre-renal from sys CHF and
   overdiuresis with lasix at home
   Making slow improvement in urine flow and creatinine, though creatinine
   may stabilize at a new baseline
   Poor po intake is probably contributing further
   --Gentle hydration, encouraging PO, lasix prn
   --renal u/s if no improvement
   # ANEMIA,, chronic c/b blood loss anemia after self line-d/c
   Hct stabilized after prbc  transfusion and reversal of INR
   -Transfuse for hct < 25
   -keep t and c
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   chronic, on daily cuppressive therapy w/ vanco PO
   - continue Vanco PO
   -GI  input per daughter
s request
   # NECK HEMATOMA-
   Stable with dressing in place
   Ultrasound without evidence of expanding hematoma or AV fistula
   Follow Exam
   # FTT
discuss long term issue withdaughter,  pt might benefit from peg
   for nutrition
   pt would likely self-d/c NGT/DHT which would increase aspiration risk.
   Encourage po intake
   #dementia
   Home regimen
 NAUSEA / VOMITING on admit
   Likely viral verses bowel edema related
   Resolved
 DIARRHEA
   # CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -on Lipitor
   - w/o evidence of ongoing ischemia
 HYPOTHYROIDISM
   ICU Care
   Nutrition: encouraging po
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2136-7-5**] 09:00 AM
   22 Gauge - [**2136-7-6**] 12:31 AM
   PICC Line - [**2136-7-6**] 03:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code, continue discussions with family regarding
   goals of care
   Disposition :ICU
   Crit ically ill
   Total time spent: 40 minutes

2136-07-08 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2136-7-7**] 08:17 AM
   Started on dopamine drip last night currently @ 15mcg/kg/min.
   Transient improvement in UOP.
   Low UOP; currently 10mL/hr
   Allergies:
   Pronestyl (Oral) (Procainamide Hcl)
   Unknown;
   Quinidine
   Unknown;
   Clonidine
   Unknown;
   A.C.E Inhibitors
   Unknown; Cough;
   Spironolactone
   mental status c
   Flagyl (Oral) (Metronidazole)
   Nausea/Vomiting
   Levaquin (Oral) (Levofloxacin)
   increased bleed
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-7-7**] 08:47 AM
   Heparin Sodium (Prophylaxis) - [**2136-7-7**] 04:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-8**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 70 (70 - 71) bpm
   BP: 142/33(62) {113/15(48) - 142/56(72)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,499 mL
                                                                    252 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    539 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                    327 mL
                                                                    111 mL
   Urine:
                                                                    327 mL
                                                                    111 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,172 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen: NAD, follows directions, answers yes/no questions, denies pain
   CV: regular rate, 4/6 systolic murmur, no R/G
   Lungs: nonlabored breathing on 2L NC
   Abd: +bs, soft, ntnd
   Ext: cool, nonpalpable pedal pulses, mild edema of LE, 1+ edema of UE
   Labs / Radiology
   191 K/uL
   12.3 g/dL
   208 mg/dL
   2.3 mg/dL
   23 mEq/L
   4.3 mEq/L
   61 mg/dL
   102 mEq/L
   136 mEq/L
   35.7 %
   14.9 K/uL
         [image002.jpg]
                             [**2136-7-5**]  12:24 AM
                             [**2136-7-5**]  04:40 AM
                             [**2136-7-5**]  05:56 PM
                             [**2136-7-6**]  02:45 PM
                             [**2136-7-7**]  04:46 AM
                             [**2136-7-8**]  03:54 AM
   WBC
   14.0
   12.0
   10.6
   12.2
   14.9
   Hct
   26.7
   28.4
   23.7
   28.9
   35.7
   Plt
   187
   163
   138
   154
   191
   Cr
   2.8
   2.7
   2.4
   2.2
   2.3
   TropT
   0.04
   0.04
   Glucose
   106
   118
   71
   63
   52
   208
   Other labs: PT / PTT / INR:17.6/41.1/1.6, CK / CKMB /
   Troponin-T:69/4/0.04, ALT / AST:113/82, Alk Phos / T Bili:71/0.8,
   Amylase / Lipase:33/19, Differential-Neuts:87.4 %, Band:0.0 %,
   Lymph:7.4 %, Mono:4.9 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.8
   g/dL, LDH:395 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   CXR [**2136-7-7**]: increaseing prominence of interstitial markings consistent
   with elevated pulmonary venous pressure.  Bilateral pleural effusion
   still present R>L.  Probable atelectatic changes at the right base as
   well, though supervening pneumonia cannot be excluded.
   [**2136-7-5**] FECAL studies: no shigella, campylobacter, salmonella, c. diff
   toxin neg x 1
   [**2136-7-5**] Legionella urine ag: negative
   [**2136-7-4**] Blood cx: pending
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ATRIAL FIBRILLATION (AFIB)
   on coumadin
 ANEMIA, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   chronic, on daily vanco PO long-term
 NAUSEA / VOMITING
 DIARRHEA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   prerenal in setting of V/diarrhea
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTHYROIDISM
   86 y/o F h/o CAD, CHF, DM, AFib hypertherapeutic on coumadin, and
   chronic c. diff colitis on recently elevated dose of PO vanco a/w
   vomiting and diarrhea with evidence of colitis, and acute on chronic
   renal failure in the setting of escalating diuresis.
   .
   #Acute on chronic renal failure
likely multifactorial pre-renal
   physiology (poor forward flow from decompensated CHF, uptitrated
   diuretics, vomiting, diarrhea, poor PO intake); Cr improving with IVF,
   but likely still intravascularly dry as UOP has been suboptimal; could
   be at or approaching new b/l Cr
   - gentle hydration (250 cc over 1 hrs) if UOP is not responding to
   dopamine, goal UOP > 15-20 cc/hr
   - holding K, [**Last Name (un) 239**], diuretics
   - urine cx growing clinically insignificant quantity of GNR
 will not
   treat; will repeat cx today
   - monitor lytes, BUN/Cr [**Hospital1 **]
   - obtain renal ultrasound to rule out structural causes for oliguria
   .
   #Acute on chronic systolic heart failure
TTE revealed worsened valve
   and LV fxn c/w exam [**9-24**]; substantial pleural effusions but no
   respiratory compromise, comfortable with adeq. O2 sats on 2L; CE
   negative/EKG unchanged/no new WMA on TTE so unlikely recent ischemic
   event precipitated this decompensation
   -fluid status appears intravascularly fluid low, but total body high;
   will give albumin (25) today followed by lasix 40mg IV
   -favor giving gentle IVF as intravasularly low and entirely preload
   dependent [**1-21**] severe valvular disease
   -C/S CHF service re: fluid management and utility of ionotropic support
   to improve forward flow
   -titrate O2 to sats > 92%; if O2 requirement [**Last Name (LF) 1881**], [**First Name3 (LF) **] try lasix +
   metolozone, incr. carvedilol for afterload reduction
   -cont. digoxin (serum level [**7-6**] WNL)
   - continue dopamine drip
   #Anemia
 currently Hct 35.7 (up from 28.9 [**2136-7-7**])  s/p 2U PRBC
   ([**2136-7-5**]); bleeding from central line site has resolved
   -T&C, x-fuse for <24%
   - monitor daily
   -guaiac stools
   .
   #Bilat pleural effusion/RLL opacity - likely transudative effusions in
   the setting of decompensated CHF, cannot exclude underlying PNA but low
   suspicion since no fever or leukocytosis; stable resp. status off O2
   -no indictation for ABX for now (esp. in light of h/o c. diff)
   -blood Cx pending
   .
   #N/V/D - suspect viral etiology as has not had vomiting with prior
   episodes of c. diff; may also be bowel wall edema in the setting of
   volume overload; no c/o pain, benign abdominal exam, and
   supratherapeutic INR on admission makes ischemia/thrombosis less
   likely; mild transaminitis c/w congestive hepatopathy
   -c. diff neg x 1, repeat x 2
   -cont. PO vanco QD; would not add flagyl; must clarify duration of
   therapy for c. diff
   -follow LFT's; consider RUQ U/S if cont. to rise significantly
   .
   #AFib - V-paced; subtherapeutic
   -restart coumadin tonight; may have to hold peri-procedurally should
   she require PEG placement
   .
   #DM
 sugars well-controlled
   -RISS
   .
   #CAD - no ischemic changes on EKG, CE
s neg, no new WMA on TTE,
   unlikely recent ischemic event
   -cont. ASA, B-blocker
   .
   #HTN -
   -cont. carvedilol for HTN, afterload reduction
   -holding diuretics, [**Last Name (un) 239**] in ARF
   .
   #Hypothyroidism
   -Cont. thyroxine
   -TSH, free T4 WNL
   .
   #F/E/N
 poor PO intake even with encouragement, will likely require TF
   or PEG
   -slow IVF bolus PRN until volume replete, UOP improves
   -monitor lytes [**Hospital1 **]
   -cardiac diet
   .
   #PPx - PPI, SQH, no need for bowel regimen
   .
   #Access
 2  PIV,  PICC
   .
   #Contact - Daughter [**First Name8 (NamePattern2) 1690**] [**Known lastname 3629**] [**Telephone/Fax (1) 3630**]; will readdress goals of
   care, code status, possible PEG for long-term nutrition
   .
   #CODE STATUS
 FULL
   .
   #Dispo
 ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-7-5**] 09:00 AM
   22 Gauge - [**2136-7-6**] 12:31 AM
   PICC Line - [**2136-7-6**] 03:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2136-07-08 12:19:00 Physician Attending Progress Note
Chief Complaint: FTT, ARF, systolic CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2136-7-7**] 08:17 AM
   started dopa gtt yesterday for low urine output --> urine output
   transiently improved
   cards c/s
   Allergies:
   Pronestyl (Oral) (Procainamide Hcl)
   Unknown;
   Quinidine
   Unknown;
   Clonidine
   Unknown;
   A.C.E Inhibitors
   Unknown; Cough;
   Spironolactone
   mental status c
   Flagyl (Oral) (Metronidazole)
   Nausea/Vomiting
   Levaquin (Oral) (Levofloxacin)
   increased bleed
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-7-8**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2136-7-8**] 08:05 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-8**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 70 (70 - 71) bpm
   BP: 105/55(67) {100/15(48) - 142/63(72)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,499 mL
                                                                    792 mL
   PO:
                                                                    960 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    539 mL
                                                                    432 mL
   Blood products:
   Total out:
                                                                    327 mL
                                                                    191 mL
   Urine:
                                                                    327 mL
                                                                    166 mL
   NG:
   25 mL
   Stool:
   Drains:
   Balance:
                                                                  1,172 mL
                                                                    601 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99% 2L NC
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, Diminished: , Rhonchorous: )
   Extremities: Right: trace, Left: trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to:verbal,
   Movement: purposeful
   Labs / Radiology
   12.3 g/dL
   191 K/uL
   208 mg/dL
   2.3 mg/dL (2.2)
   23 mEq/L
   4.3 mEq/L
   61 mg/dL
   102 mEq/L
   136 mEq/L
   35.7 %
   14.9 K/uL
        [image002.jpg]
                             [**2136-7-5**]  12:24 AM
                             [**2136-7-5**]  04:40 AM
                             [**2136-7-5**]  05:56 PM
                             [**2136-7-6**]  02:45 PM
                             [**2136-7-7**]  04:46 AM
                             [**2136-7-8**]  03:54 AM
   WBC
   14.0
   12.0
   10.6
   12.2
   14.9
   Hct
   26.7
   28.4
   23.7
   28.9
   35.7
   Plt
   187
   163
   138
   154
   191
   Cr
   2.8
   2.7
   2.4
   2.2
   2.3
   TropT
   0.04
   0.04
   Glucose
   106
   118
   71
   63
   52
   208
   Other labs: PT / PTT / INR:17.6/41.1/1.6, CK / CKMB /
   Troponin-T:69/4/0.04, ALT / AST:113/82, Alk Phos / T Bili:71/0.8,
   Amylase / Lipase:33/19, Differential-Neuts:87.4 %, Band:0.0 %,
   Lymph:7.4 %, Mono:4.9 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.8
   g/dL, LDH:395 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Imaging: no new cxr
   Microbiology: urine cx-->1000 GNR, final pending
   Assessment and Plan
   86 yo F w/ chronic c diff on suppressive therapy at home, chronic
   effusions, CAD, valvular heart ds, and systolic CHF admitted w/
   worsening renal function in the setting of over diuresis for worsening
   volume overload.
   Pt has had a substantial worsening of her myocardial function and
   valvular function and has had a limited response to both volume and
   diuretics given in series. Will likely need to continue gentle
   hydration as PO intake remains poor.  She has some evidence of
   hydrostatic edema on her CXR which is concerning in the setting of
   limited urine output and impaired renal function, and also is in part
   at least [**1-21**] to poor nutritional status and poor PO intake.
   Main issues include:
   # CONGESTIVE HEART FAILURE
systolic, acute on chronic
    With underlying valvular ds and now with acute renal failure, pleural
   effusions
   -- Digoxin, check level
   -- Carvedilol
   -- appreciate cards input
   -- continuing dopa gtt for now, down the line consider  trial
   dobutamine /swan at that time
   -- At this time appears intravascularly volume down, with poor PO
trial
   of albumin with lasix X 1
   -- Lasix as needed if resp status compromised
   # ATRIAL FIBRILLATION (AFIB)
   v-paced
   coumadin was reversed for bleeding
which is now stabilized
   will resume coumadin in next few days, as pt may need additional
   interventions (?PEG)
   #  ACUTE RENAL FAILURE-appears [**1-21**] pre-renal from sys CHF and
   overdiuresis with lasix at home
   Making slow improvement in urine flow and creatinine, though creatinine
   may stabilize at a new baseline
   Poor po intake is probably contributing further, albumin is 2.8
   --Gentle hydration, encouraging PO
   --lasix albumin trial dopa gtt as above
   --Check renal us
   --repeat urine lytes prior to lasix
   # ANEMIA,, chronic c/b blood loss anemia after self line-d/c
   Hct stabilized after prbc  transfusion and reversal of INR
   -Transfuse for hct < 24
   -keep t and c
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   chronic, on daily cuppressive therapy w/ vanco PO
   - continue Vanco PO
   - aware GI input per daughter
s request
   # NECK HEMATOMA-
   Stable with dressing in place
   Ultrasound without evidence of expanding hematoma or AV fistula
   Exam remains stable
   # FTT
discuss long term issue with daughter,  pt might benefit from peg
   for nutrition
   Encourage po intake
   Nutrition consult
   Consider PEG
   PT consult
   #dementia
   Home regimen
   # CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - on Lipitor
   - w/o evidence of ongoing ischemia
 HYPOTHYROIDISM
   ICU Care
   Nutrition:
   Comments: encouraging PO
   Glycemic Control:  Comments: not indicated
   Lines:
   20 Gauge - [**2136-7-5**] 09:00 AM
   22 Gauge - [**2136-7-6**] 12:31 AM
   PICC Line - [**2136-7-6**] 03:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2136-07-09 07:02:00 Physician Resident Progress Note
Chief Complaint: nausea/vomiting/diarrhea
   86 y/o F h/o CAD, CHF, DM, AFib hypertherapeutic on coumadin, and
   chronic c. diff colitis on recently elevated dose of PO vanco a/w
   vomiting and diarrhea with evidence of colitis, and acute on chronic
   renal failure in the setting of escalating diuresis.
   24 Hour Events:
   Dopamine gtt was added Sat evening for low UOP and BP support.  Did not
   have large effect on UOP.
   Added albumin and lasix yesterday and UOP increased to 40 cc/hr.
   Nutrition rec starting TFs if food intake doesn
t increase.
   CHF consult
 agreed with starting hydralazine.  Thought patient is
   perhaps dry; recommended holding off on further diuresis for now.
   Subjective:
   Patient denies complaints this morning.
   Allergies:
   Pronestyl (Oral) (Procainamide Hcl)
   Unknown;
   Quinidine
   Unknown;
   Clonidine
   Unknown;
   A.C.E Inhibitors
   Unknown; Cough;
   Spironolactone
   mental status c
   Flagyl (Oral) (Metronidazole)
   Nausea/Vomiting
   Levaquin (Oral) (Levofloxacin)
   increased bleed
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-7-8**] 08:05 AM
   Furosemide (Lasix) - [**2136-7-8**] 02:38 PM
   Heparin Sodium (Prophylaxis) - [**2136-7-8**] 04:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-9**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 70 (70 - 71) bpm
   BP: 137/33(61) {100/28(47) - 137/63(67)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,670 mL
                                                                    236 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    850 mL
                                                                    236 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    603 mL
                                                                    275 mL
   Urine:
                                                                    578 mL
                                                                    275 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  1,067 mL
                                                                    -39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Gen: A& O x 3, nad
   Lungs: CTA anteriorly
   CV: RRR, s1 & s2 nl, no m/r/g
   abd: +bs, soft, nt, nd, no masses
   Ext: warm, dry.  2+ radial pulses bilat
   Labs / Radiology
   162 K/uL
   11.0 g/dL
   194 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.5 mEq/L
   62 mg/dL
   102 mEq/L
   137 mEq/L
   30.8 %
   11.9 K/uL
        [image002.jpg]
                             [**2136-7-5**]  12:24 AM
                             [**2136-7-5**]  04:40 AM
                             [**2136-7-5**]  05:56 PM
                             [**2136-7-6**]  02:45 PM
                             [**2136-7-7**]  04:46 AM
                             [**2136-7-8**]  03:54 AM
                             [**2136-7-9**]  04:11 AM
   WBC
   14.0
   12.0
   10.6
   12.2
   14.9
   11.9
   Hct
   26.7
   28.4
   23.7
   28.9
   35.7
   30.8
   Plt
   187
   163
   138
   154
   191
   162
   Cr
   2.8
   2.7
   2.4
   2.2
   2.3
   2.1
   TropT
   0.04
   0.04
   Glucose
   106
   118
   71
   63
   52
   208
   194
   Other labs: PT / PTT / INR:18.1/33.6/1.7,
   CK / CKMB / Troponin-T:69/4/0.04,
   ALT / AST:113/82, Alk Phos / T Bili:71/0.8, Amylase / Lipase:33/19,
   Differential-Neuts:87.4 %, Band:0.0 %, Lymph:7.4 %, Mono:4.9 %, Eos:0.2
   %,
   Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:395 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Dig 1.3
   Imaging: CXR [**2136-7-9**] - slight improvement in RLL fluid.  HD seen a
   little better on R.
   Microbiology: urine - GNR min amount
   urine - NGTD
   Urine - legionella neg
   Stool - neg C.diff x 2
   Blood cx - [**Last Name 2908**]
   PROBLEM LIST
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ATRIAL FIBRILLATION (AFIB)
   on coumadin
 ANEMIA, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   chronic, on daily vanco PO long-term
 NAUSEA / VOMITING
 DIARRHEA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   prerenal in setting of V/diarrhea
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTHYROIDISM
   ASSESSMENT & PLAN:
   86 y/o F h/o CAD, CHF, DM, AFib hypertherapeutic on coumadin, and
   chronic c. diff colitis on recently elevated dose of PO vanco a/w
   vomiting and diarrhea with evidence of colitis, and acute on chronic
   renal failure in the setting of escalating diuresis.
   #Acute on chronic renal failure
likely multifactorial pre-renal
   physiology (poor forward flow from decompensated CHF, uptitrated
   diuretics, vomiting, diarrhea, poor PO intake); Cr improving with IVF,
   but likely still intravascularly dry as UOP has been suboptimal; could
   be at or approaching new b/l Cr (baseline likely 1.6)
   - d/c dopamine as not having desired effect.
   - gentle hydration (250 cc over 1 hrs), goal UOP > 15-20 cc/hr
   - holding K, [**Last Name (un) 239**], diuretics
   - urine cx growing clinically insignificant quantity of GNR
 will not
   treat; will repeat cx today
   - monitor lytes, BUN/Cr [**Hospital1 **]
   - Fup re: results of renal U/S.
   #Acute on chronic systolic heart failure
TTE revealed worsened valve
   and LV fxn c/w exam [**9-24**]; substantial pleural effusions but no
   respiratory compromise, comfortable with adeq. O2 sats on 2L; CE
   negative/EKG unchanged/no new WMA on TTE so unlikely recent ischemic
   event precipitated this decompensation
   -fluid status appears intravascularly fluid low, but total body high;
   will hold off on more lasix today.
   -favor giving gentle IVF as intravasularly low and entirely preload
   dependent [**1-21**] severe valvular disease
   -C/S CHF service re: fluid management and utility of ionotropic support
   to improve forward flow
   -titrate O2 to sats > 92%; if O2 requirement [**Last Name (LF) 1881**], [**First Name3 (LF) **] try lasix +
   metolozone, incr. carvedilol for afterload reduction
   -cont. digoxin (serum level today)
   - add hydralazine for further afterload reduction.
   #Anemia
 currently Hct 30; bleeding from central line site has
   resolved
   -T&C, x-fuse for <21%
   - monitor daily
   -guaiac stools
   #Bilat pleural effusion/RLL opacity - likely transudative effusions in
   the setting of decompensated CHF, cannot exclude underlying PNA but low
   suspicion since no fever or leukocytosis; stable resp. status
   -no indictation for ABX for now (esp. in light of h/o c. diff)
   -blood Cx pending
   #N/V/D - suspect viral etiology as has not had vomiting with prior
   episodes of c. diff; may also be bowel wall edema in the setting of
   volume overload; no c/o pain, benign abdominal exam, and
   supratherapeutic INR on admission makes ischemia/thrombosis less
   likely; mild transaminitis c/w congestive hepatopathy
   -c. diff neg x 2, repeat x 1
   -cont. PO vanco QD; would not add flagyl; must clarify duration of
   therapy for c. diff
   .
   #transaminitis
 LFTs slowly increasing for the past few days.
   -obtain RUQ ultrasound for further evaluation.
   -likely secondary to poor perfusion due to poor cardiac output.
   .
   #AFib - V-paced; subtherapeutic
   -continue coumadin
   #DM
 sugars well-controlled
   #CAD - no ischemic changes on EKG, CE
s neg, no new WMA on TTE,
   unlikely recent ischemic event
   -cont. ASA, B-blocker
   #HTN -
   -cont. carvedilol for HTN, afterload reduction
   -holding diuretics, [**Last Name (un) 239**] in AR
   -adding hydralazine
   #Hypothyroidism
   -Cont. thyroxine
   -TSH, free T4 WNL
   #F/E/N
 poor PO intake even with encouragement.  Patient doing
   slightly better with POs today.
   -nutrition rec TFs if PO intake does not increase.
   -slow IVF bolus PRN until volume replete, UOP improves
   -monitor lytes [**Hospital1 **]
   -encourage po intake (cardiac diet, supplement with Ensure)); may
   require tube feeds if caloric intake does not increase.
   #PPx - PPI, SQH, no need for bowel regimen
   #Access
 2  PIV,  PICC
   #Contact - Daughter [**First Name8 (NamePattern2) 1690**] [**Known lastname 3629**] [**Telephone/Fax (1) 3630**]; will readdress goals of
   care, code status, possible PEG for long-term nutrition
   #CODE STATUS
 FULL
   #Dispo
 ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-7-5**] 09:00 AM
   22 Gauge - [**2136-7-6**] 12:31 AM
   PICC Line - [**2136-7-6**] 03:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2136-07-09 11:10:00 Physician Attending Progress Note
Chief Complaint: Acute Renal Failure
   Congestive Heart Failure--Acute/Chronic systolic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Dopamine/Albumin/Lasix utilized to enhance urine output.
   Poor po intake noted.
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Pronestyl (Oral) (Procainamide Hcl)
   Unknown;
   Quinidine
   Unknown;
   Clonidine
   Unknown;
   A.C.E Inhibitors
   Unknown; Cough;
   Spironolactone
   mental status c
   Flagyl (Oral) (Metronidazole)
   Nausea/Vomiting
   Levaquin (Oral) (Levofloxacin)
   increased bleed
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 15 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2136-7-8**] 02:38 PM
   Pantoprazole (Protonix) - [**2136-7-9**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2136-7-9**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Flowsheet Data as of  [**2136-7-9**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 70 (70 - 71) bpm
   BP: 112/34(53) {105/29(47) - 137/55(67)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
             Total In:
                                                                  1,670 mL
                                                                    597 mL
   PO:
                                                                    720 mL
                                                                    220 mL
   TF:
   IVF:
                                                                    850 mL
                                                                    377 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    603 mL
                                                                    395 mL
   Urine:
                                                                    578 mL
                                                                    395 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  1,067 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic),
   [**1-25**]--at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   162 K/uL
   194 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.5 mEq/L
   62 mg/dL
   102 mEq/L
   137 mEq/L
   30.8 %
   11.9 K/uL
        [image002.jpg]
                             [**2136-7-5**]  12:24 AM
                             [**2136-7-5**]  04:40 AM
                             [**2136-7-5**]  05:56 PM
                             [**2136-7-6**]  02:45 PM
                             [**2136-7-7**]  04:46 AM
                             [**2136-7-8**]  03:54 AM
                             [**2136-7-9**]  04:11 AM
   WBC
   14.0
   12.0
   10.6
   12.2
   14.9
   11.9
   Hct
   26.7
   28.4
   23.7
   28.9
   35.7
   30.8
   Plt
   187
   163
   138
   154
   191
   162
   Cr
   2.8
   2.7
   2.4
   2.2
   2.3
   2.1
   TropT
   0.04
   0.04
   Glucose
   106
   118
   71
   63
   52
   208
   194
   Other labs: PT / PTT / INR:18.1/33.6/1.7, CK / CKMB /
   Troponin-T:69/4/0.04, ALT / AST:113/82, Alk Phos / T Bili:71/0.8,
   Amylase / Lipase:33/19, Differential-Neuts:87.4 %, Band:0.0 %,
   Lymph:7.4 %, Mono:4.9 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.5
   g/dL, LDH:395 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR--[**2136-7-9**]--
   Persistent right lower lung field opacity but minimal change from
   previous
   Microbiology: No new cultures
   Assessment and Plan
   86 yo female admit with acute renal failure and worsening CHF
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -Lipitor
   -ASA
   -No evidence of recurrent ischemia
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   -Congestive Heart Failure--Acute onset in the setting of Chronic Heart
   Failure
   -Digoxin/Carvedilol
   -Dopamine at 15 this morning
   -Will continue with Lasix/Albumin to continue to attempt to mobilize
   fluid
   -Patient likely remains somwhat hypovolemic overall
and are at risk in
   terms of pressor use of creating a state of inability to maintain
   adequate function in absence of pressors.
   -Will need afterload reduction optimized and digoxin/Carvedilol
   continued
   -Return afterload reduction as primary intervention with hydralizine
 ATRIAL FIBRILLATION (AFIB)
   on coumadin
 ANEMIA, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   chronic, on daily vanco PO long-term
   -patient has some clear improvement in WBC count and abdominal exam
   remains re-assuring and will continue with current Rx
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -Renal Ultrasound completed this morning
   -Diuretics held, Nephrotoxic medications minimized
   - prerenal in setting of V/diarrhea
 HYPOTHYROIDISM
   -No change in synthroid dosing
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-7-5**] 09:00 AM
   22 Gauge - [**2136-7-6**] 12:31 AM
   PICC Line - [**2136-7-6**] 03:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :ICU
   Total time spent: 45

2136-07-10 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2136-7-9**] 10:07 AM
   renal
   Allergies:
   Pronestyl (Oral) (Procainamide Hcl)
   Unknown;
   Quinidine
   Unknown;
   Clonidine
   Unknown;
   A.C.E Inhibitors
   Unknown; Cough;
   Spironolactone
   mental status c
   Flagyl (Oral) (Metronidazole)
   Nausea/Vomiting
   Levaquin (Oral) (Levofloxacin)
   increased bleed
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-7-9**] 07:59 AM
   Furosemide (Lasix) - [**2136-7-9**] 11:20 AM
   Coumadin (Warfarin) - [**2136-7-9**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2136-7-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-10**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 70 (70 - 73) bpm
   BP: 108/37(55) {86/28(43) - 134/49(65)} mmHg
   RR: 20 (14 - 33) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
             Total In:
                                                                  1,418 mL
                                                                    158 mL
   PO:
                                                                    460 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    958 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    180 mL
   Urine:
                                                                  1,200 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    218 mL
                                                                    -22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   9.5 g/dL
   94 mg/dL
   1.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   53 mg/dL
   104 mEq/L
   140 mEq/L
   27.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2136-7-5**]  12:24 AM
                             [**2136-7-5**]  04:40 AM
                             [**2136-7-5**]  05:56 PM
                             [**2136-7-6**]  02:45 PM
                             [**2136-7-7**]  04:46 AM
                             [**2136-7-8**]  03:54 AM
                             [**2136-7-9**]  04:11 AM
                             [**2136-7-9**]  06:59 PM
                             [**2136-7-10**]  03:03 AM
   WBC
   14.0
   12.0
   10.6
   12.2
   14.9
   11.9
   9.8
   Hct
   26.7
   28.4
   23.7
   28.9
   35.7
   30.8
   27.1
   Plt
   187
   163
   138
   154
   191
   162
   142
   Cr
   2.8
   2.7
   2.4
   2.2
   2.3
   2.1
   1.8
   1.7
   TropT
   0.04
   0.04
   Glucose
   106
   118
   71
   63
   52
   [**Telephone/Fax (3) 3747**]4
   Other labs: PT / PTT / INR:18.1/33.6/1.7, CK / CKMB /
   Troponin-T:69/4/0.04, ALT / AST:113/82, Alk Phos / T Bili:71/0.8,
   Amylase / Lipase:33/19, Differential-Neuts:87.4 %, Band:0.0 %,
   Lymph:7.4 %, Mono:4.9 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.5
   g/dL, LDH:395 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   86 y/o F h/o CAD, CHF, DM, AFib hypertherapeutic on coumadin, and
   chronic c. diff colitis on recently elevated dose of PO vanco a/w
   vomiting and diarrhea with evidence of colitis, and acute on chronic
   renal failure in the setting of escalating diuresis.
   #Acute on chronic renal failure
likely multifactorial pre-renal
   physiology (poor forward flow from decompensated CHF, uptitrated
   diuretics, vomiting, diarrhea, poor PO intake); Cr improving with IVF,
   but likely still intravascularly dry as UOP has been suboptimal; could
   be at or approaching new b/l Cr (baseline likely 1.6)
   - d/c dopamine as not having desired effect.
   - gentle hydration (250 cc over 1 hrs), goal UOP > 15-20 cc/hr
   - holding K, [**Last Name (un) 239**], diuretics
   - urine cx growing clinically insignificant quantity of GNR
 will not
   treat; will repeat cx today
   - monitor lytes, BUN/Cr [**Hospital1 **]
   - Fup re: results of renal U/S.
   #Acute on chronic systolic heart failure
TTE revealed worsened valve
   and LV fxn c/w exam [**9-24**]; substantial pleural effusions but no
   respiratory compromise, comfortable with adeq. O2 sats on 2L; CE
   negative/EKG unchanged/no new WMA on TTE so unlikely recent ischemic
   event precipitated this decompensation
   -fluid status appears intravascularly fluid low, but total body high;
   will hold off on more lasix today.
   -favor giving gentle IVF as intravasularly low and entirely preload
   dependent [**1-21**] severe valvular disease
   -C/S CHF service re: fluid management and utility of ionotropic support
   to improve forward flow
   -titrate O2 to sats > 92%; if O2 requirement [**Last Name (LF) 1881**], [**First Name3 (LF) **] try lasix +
   metolozone, incr. carvedilol for afterload reduction
   -cont. digoxin (serum level today)
   - add hydralazine for further afterload reduction.
   #Anemia
 currently Hct 30; bleeding from central line site has
   resolved
   -T&C, x-fuse for <21%
   - monitor daily
   -guaiac stools
   #Bilat pleural effusion/RLL opacity - likely transudative effusions in
   the setting of decompensated CHF, cannot exclude underlying PNA but low
   suspicion since no fever or leukocytosis; stable resp. status
   -no indictation for ABX for now (esp. in light of h/o c. diff)
   -blood Cx pending
   #N/V/D - suspect viral etiology as has not had vomiting with prior
   episodes of c. diff; may also be bowel wall edema in the setting of
   volume overload; no c/o pain, benign abdominal exam, and
   supratherapeutic INR on admission makes ischemia/thrombosis less
   likely; mild transaminitis c/w congestive hepatopathy
   -c. diff neg x 2, repeat x 1
   -cont. PO vanco QD; would not add flagyl; must clarify duration of
   therapy for c. diff
   .
   #transaminitis
 LFTs slowly increasing for the past few days.
   -obtain RUQ ultrasound for further evaluation.
   -likely secondary to poor perfusion due to poor cardiac output.
   .
   #AFib - V-paced; subtherapeutic
   -continue coumadin
   #DM
 sugars well-controlled
   #CAD - no ischemic changes on EKG, CE
s neg, no new WMA on TTE,
   unlikely recent ischemic event
   -cont. ASA, B-blocker
   #HTN -
   -cont. carvedilol for HTN, afterload reduction
   -holding diuretics, [**Last Name (un) 239**] in AR
   -adding hydralazine
   #Hypothyroidism
   -Cont. thyroxine
   -TSH, free T4 WNL
   #F/E/N
 poor PO intake even with encouragement.  Patient doing
   slightly better with POs today.
   -nutrition rec TFs if PO intake does not increase.
   -slow IVF bolus PRN until volume replete, UOP improves
   -monitor lytes [**Hospital1 **]
   -encourage po intake (cardiac diet, supplement with Ensure)); may
   require tube feeds if caloric intake does not increase.
   #PPx - PPI, SQH, no need for bowel regimen
   #Access
 2  PIV,  PICC
   #Contact - Daughter [**First Name8 (NamePattern2) 1690**] [**Known lastname 3629**] [**Telephone/Fax (1) 3630**]; will readdress goals of
   care, code status, possible PEG for long-term nutrition
   #CODE STATUS
 FULL
   #Dispo
 ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2136-7-6**] 03:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2136-07-10 11:46:00 Physician Attending Progress Note
Chief Complaint: Congestive Heart Failure
   Acute Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2136-7-9**] 10:07 AM
   renal--no evidence of obstruction
   Hydralazine started for afterload reduction--complicated by hypotension
   which may be a marker of persistent hypovolemia
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Pronestyl (Oral) (Procainamide Hcl)
   Unknown;
   Quinidine
   Unknown;
   Clonidine
   Unknown;
   A.C.E Inhibitors
   Unknown; Cough;
   Spironolactone
   mental status c
   Flagyl (Oral) (Metronidazole)
   Nausea/Vomiting
   Levaquin (Oral) (Levofloxacin)
   increased bleed
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2136-7-9**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2136-7-10**] 08:07 AM
   Pantoprazole (Protonix) - [**2136-7-10**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2136-7-10**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 70 (70 - 71) bpm
   BP: 106/39(56) {86/28(43) - 121/49(66)} mmHg
   RR: 21 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
             Total In:
                                                                  1,418 mL
                                                                    269 mL
   PO:
                                                                    460 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    958 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    473 mL
   Urine:
                                                                  1,200 mL
                                                                    473 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    218 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   142 K/uL
   94 mg/dL
   1.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   53 mg/dL
   104 mEq/L
   140 mEq/L
   27.1 %
   9.8 K/uL
        [image002.jpg]
                             [**2136-7-5**]  12:24 AM
                             [**2136-7-5**]  04:40 AM
                             [**2136-7-5**]  05:56 PM
                             [**2136-7-6**]  02:45 PM
                             [**2136-7-7**]  04:46 AM
                             [**2136-7-8**]  03:54 AM
                             [**2136-7-9**]  04:11 AM
                             [**2136-7-9**]  06:59 PM
                             [**2136-7-10**]  03:03 AM
   WBC
   14.0
   12.0
   10.6
   12.2
   14.9
   11.9
   9.8
   Hct
   26.7
   28.4
   23.7
   28.9
   35.7
   30.8
   27.1
   Plt
   187
   163
   138
   154
   191
   162
   142
   Cr
   2.8
   2.7
   2.4
   2.2
   2.3
   2.1
   1.8
   1.7
   TropT
   0.04
   0.04
   Glucose
   106
   118
   71
   63
   52
   [**Telephone/Fax (3) 3747**]4
   Other labs: PT / PTT / INR:20.5/53.7/1.9, CK / CKMB /
   Troponin-T:69/4/0.04, ALT / AST:68/36, Alk Phos / T Bili:46/0.4,
   Amylase / Lipase:33/19, Differential-Neuts:87.4 %, Band:0.0 %,
   Lymph:7.4 %, Mono:4.9 %, Eos:0.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.5
   g/dL, LDH:395 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR--Bilateral lower lung zone opacities consistent with some
   bilateral effusions.
   Microbiology: No new results
   Assessment and Plan
   86 yo with severe AI/AS and CHF now with movement towards improved
   management of CHF with acute worsening now in the setting of
   restoration of volume status.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ATRIAL FIBRILLATION (AFIB)
   on coumadin, Digoxin
 ANEMIA, CHRONIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   chronic, on daily vanco PO long-term
 NAUSEA / VOMITING
 DIARRHEA
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   -Digoxin
   -Carvedilol
   -Hydralazine at 5mg if needed as goal for afterload reduction is
   primary here and will uptitrate
   -Diuresis only if needed and right now patient hypovolemic
   -Will return Diovan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   prerenal in setting of V/diarrhea
   -Still currently mildly hypovolemic
   -Continuing to move towards baseline but have seen improved renal
   function
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTHYROIDISM
   ICU Care
   Nutrition: Encourage PO intake
   Glycemic Control:
   Lines:
   PICC Line - [**2136-7-6**] 03:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 35 minutes